US09079865B2
Synthesis of (Z)-3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid
A 25-mL, 3-necked, round-bottomed flask was charged with a solution of (Z)-isopropyl 3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylate (1.33 g) in 1:1 THF:water (26 mL). The solution was treated with solid LiOH (0.53 g, 4 eq.) and stirred at room temperature for 4 h before being diluted with 400 ml water, acidified to pH=2-3 with dilute aqueous HCl, and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford 0.8 g of crude compound (yield: 66%).

reactant | (Z)-isopropyl 3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylate | 1.33 g | ClC1=C(C=C(C=C1C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)OC(C)C)C(F)(F)F | C16H12ClF6N3O2
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 0.53 g, 4 eq. | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | water | 26 mL | O | H2O
product | (Z)-3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.8 g, yield: 66% | ClC1=C(C=C(C=C1C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)C(F)(F)F | C13H6ClF6N3O2
